US07713994B2
(4Z)-6-Iodo-4-[({4-[4-(2-methoxy-1-methylethyl)piperazin-1-yl]phenyl}amino)methylene]isoquinoline-1,3(2H,4H)-dione
(4Z)-6-Iodo-4-{[(4-piperazin-1-ylphenyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione (47.4 mg, 0.1 mmol) is dissolved in N-methylpyrrolidinone (1 mL) and methylene chloride (0.3 mL), followed by addition of sodium triacetoxyborohydride (244 mg, 1.15 mmol), 1-methoxy-propan-2-one (0.232 mL, 2.58 mmol) and acetic acid (0.15 mL, 2.6 mmol). After stirring at room temperature for 40 min, methylene chloride and saturated sodium bicarbonate solution were added. The organic layer is separated and dried to give 39 mg (71%) of the title compound as a yellow solid. MS (ESI) m/z 547.4 (M+H)+1.

reactant | (4Z)-6-Iodo-4-{[(4-piperazin-1-ylphenyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 0.1 mmol, 47.4 mg | IC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)N1CCNCC1 | C20H19IN4O2
reactant | sodium triacetoxyborohydride | 1.15 mmol, 244 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-methoxy-propan-2-one | 2.58 mmol, 0.232 mL | COCC(C)=O | C4H8O2
reactant | acetic acid | 2.6 mmol, 0.15 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N-methylpyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
solvent | methylene chloride | 0.3 mL | C(Cl)Cl | CH2Cl2
product | (4Z)-6-Iodo-4-[({4-[4-(2-methoxy-1-methylethyl)piperazin-1-yl]phenyl}amino)methylene]isoquinoline-1,3(2H,4H)-dione | 39 mg, 71% | IC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)N1CCN(CC1)C(COC)C | C24H27IN4O3
